US04985458
Veratrole was reacted with n-butyric anhydride in the presence of iodine. Resulting 4-n-butyrylveratrol was reduced with hydrazine hydrate and potassium hydroxide in diethyleneglycol. The methyl groups of 4-n-butylveratrole thus obtained were removed by acetic acid and hydrogen bromide to obtain 4-n-butylcatechol.

reactant | Veratrole | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | n-butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | iodine | II | I2
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethyleneglycol | C(COCCO)O | C4H10O3
product | 4-n-butylveratrole | C(CCC)C=1C=C(C(=CC1)OC)OC | C12H18O2
